US05939439
Step 2: 5'-Hydroxymethyl-6-methyl-[1,2']bipyridinyl-2-one
2-bromo(5-hydroxymethyl)pyridine (3.00 g, 15.95 mmol), 6-methylpyridone (2.08 g, 19.14 mmol), Copper (2.64, 19.14 mmol) and K2CO3 (0.635 g, 10.0 mmol) were heated at 140° C. for 3 hrs. Added CHC13 to reaction when still warm and let stirred overnight. Filtered the mixture through a frit, concentrated in vacuo and the residue was chromatographed (silica gel, 0-4% MeOH-EtOAc solution). Obtained the title compound as a brown oil.

reactant | 6-methylpyridone | 19.14 mmol, 2.08 g | CC1=CC=CC(N1)=O | C6H7NO
reactant | K2CO3 | 10.0 mmol, 0.635 g | C(=O)([O-])[O-].[K+].[K+]
catalyst | Copper | 19.14 mmol | [Cu] | Cu
product | 5'-Hydroxymethyl-6-methyl-[1,2']bipyridinyl-2-one | OCC=1C=CC(=NC1)N1C(C=CC=C1C)=O | C12H12N2O2
